US08232278B2
Synthesis of 6-chloro-4-ethoxy-pyrido[3,2-d]pyrimidin-2-ylamine
To a suspension of N-(4,6-dichloro-pyrido[3,2-d]pyrimidin-2-yl)-acetamide (0.98 g, 3.8 mmol) in ethanol (35 mL) was added a solution of 21% Na ethanolate in ethanol (2.8 mL, 7.6 mmol). After stirring at room temperature for one hour, the solution was diluted with ethyl acetate then washed with brine. The aqueous layer was extracted with dichloromethane. The combined organic layers were dried over Na2SO4 and concentrated to yield the pure title compound as a beige solid (0.6 g, yield 70%) which was characterised as follows: MS (m/z) 225.6 [M+H]+.

reactant | N-(4,6-dichloro-pyrido[3,2-d]pyrimidin-2-yl)-acetamide | 3.8 mmol, 0.98 g | ClC=1C2=C(N=C(N1)NC(C)=O)C=CC(=N2)Cl | C9H6Cl2N4O
reactant | ethanol | 35 mL | C(C)O | C2H6O
reactant | ethanol | 7.6 mmol, 2.8 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-chloro-4-ethoxy-pyrido[3,2-d]pyrimidin-2-ylamine | 0.6 g, yield 70% | ClC=1C=CC=2N=C(N=C(C2N1)OCC)N | C9H9ClN4O
